datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[S:12]([c:13]1[c:14]([H:20])[c:15]([H:21])[c:16]([H:22])[c:17]([H:23])[c:18]1[H:24])[H:19]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[H:19])[H:7])([H:5])[H:6].[S:12][c:13]1[c:14]([H:20])[c:15]([H:21])[c:16]([H:22])[c:17]([H:23])[c:18]1[H:24],42.6768
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]([H:18])([H:19])[H:20])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:17])[H:5].[C:12](=[C:13][C:14]([H:18])([H:19])[H:20])([H:15])[H:16],104.474
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:32][H:33]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:19][O:32][H:33],-5.819944
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[C:15]([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][C:15]([H:16])([H:17])[H:18],9.2048
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4][H:12])[H:8])([H:5])([H:6])[H:7].[C:13]([C:14](=[O:15])[H:18])([H:16])[H:17]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4])[H:8])([H:5])([H:6])[H:7].[H:12][C:13]([C:14](=[O:15])[H:18])([H:16])[H:17],-8.95376
[C:4]#[N:5].[N:0]([H:1])([H:2])[H:3]>>[H:1][C:4]#[N:5].[N:0]([H:2])[H:3],-1.50624
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11](=[C:12]([C:13](=[C:14]([H:21])[H:22])[H:20])[H:19])[H:18])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:11]([C:10](=[C:9]([H:15])[H:16])[H:17])([C:12]([C:13](=[C:14]([H:21])[H:22])[H:20])[H:19])[H:18])[H:4],30.1666
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])[C:3]1([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]1([H:21])[H:22])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]1[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]1([H:21])[H:22])[H:14])([H:8])([H:9])[H:10],156.482
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[O:17][O:18]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][O:17][O:18],200.832
[C:0]([C:1]([O:2][O:3])([H:7])[H:8])([H:4])([H:5])[H:6].[H:9][H:10]>>[C:0]([C:1]([O:2][O:3][H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[H:9],108.90952
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:17])([H:18])[H:19])[C:7]([H:20])([H:21])[H:22])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]1([C:6]([H:17])([H:18])[H:19])[C:7]([H:20])([H:21])[H:22],41.045
[C:0]([C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[H:16])[H:11])([H:8])([H:9])[H:10].[C:17]([c:18]1[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]1[H:31])([H:24])([H:25])[H:26]>>[C:0]([C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[H:16])([H:11])[C:21]1([H:29])[C:20]([H:28])[C:19]([H:27])=[C:18]([C:17]([H:24])([H:25])[H:26])[C:23]([H:31])=[C:22]1[H:30])([H:8])([H:9])[H:10],47.5562
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[C:13](=[S:14])[H:15]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][C:13](=[S:14])[H:15],36.4008
[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6].[C:16]([C:17]([C:18]([C:19]([C:20]([C:21]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8])([H:5])([H:6])[C:16]([C:17]([C:18]([C:19]([C:20]([C:21]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23],0.0
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:34])([H:35])[H:36])([H:32])[H:33])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13].[O:37][O:38]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:34])([H:35])[H:36])([H:32])[H:33])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])([H:13])[O:37][O:38],0.0
[C:0]([O:1][H:4])([H:2])[H:3].[H:5]>>[C:0](=[O:1])([H:2])[H:3].[H:4][H:5],0.0
